US05846982
Ethyl 3-(N-methylamino)butanoate
A solution of 479.2 mL (0.958 mole) methylamine (2M in tetrahydrofuran) was added dropwise to 99.44 gm ethyl crotonate with stirring. After stirring 5 days at room temperature the reaction mixture was concentrated under reduced pressure to remove tetrahydrofuran. The residue was distilled to provide 91.25 gm (72%) of the desired product in 2 fractions.

reactant | methylamine | 0.958 mole, 2M, 479.2 mL | CN | CH5N
reactant | ethyl crotonate | 99.44 gm | C(\C=C\C)(=O)OCC | C6H10O2
product | Ethyl 3-(N-methylamino)butanoate | 91.25 gm, 72% | CNC(CC(=O)OCC)C | C7H15NO2
